US09428461B2
7-chloro-1-[2-methyl-4-(2-methyl benzoyl amino) benzoyl]-5 oxo-2,3,4,5-tetrahydro-1H-1-benzazepine (6.5 gm.) was suspended in methanol (104 ml) & water (10.4 ml) and then added sodium borohydride (0.385 gm.) at 30° C. and the reaction mixture was stirred for 1 hr. To the reaction mixture was added hydrochloric acid (39 ml). Then the reaction mixture was stirred for 2 hours. The solid obtained was collected by filtration and dried to give 7-chloro-5-hydroxy-1-[2-methyl-4-(2-methyl benzoyl amino) benzoyl]-2,3,4,5-tetrahydro-1H-1-benzazepine (5.8 gm.).

reactant | 7-chloro-1-[2-methyl-4-(2-methyl benzoyl amino) benzoyl]-5 oxo-2,3,4,5-tetrahydro-1H-1-benzazepine | 6.5 gm | ClC=1C=CC2=C(C(CCCN2C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O)=O)C1 | C26H23ClN2O3
reactant | water | 10.4 ml | O | H2O
reactant | sodium borohydride | 0.385 gm | [BH4-].[Na+]
reactant | hydrochloric acid | 39 ml | Cl | ClH
solvent | methanol | 104 ml | CO | CH4O
product | 7-chloro-5-hydroxy-1-[2-methyl-4-(2-methyl benzoyl amino) benzoyl]-2,3,4,5-tetrahydro-1H-1-benzazepine | 5.8 gm, Yield—89.23% | ClC=1C=CC2=C(C(CCCN2C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O)O)C1 | C26H25ClN2O3
